US06703392B2
[2-(Benzylcarbamoyl-methyl)-1-(3,4-dimethoxy-benzyl)-7-methoxy-1,2,3,4-tetrahydro-isoquinolin-6-yloxy]-acetic acid ethyl ester:
prepared by reaction of 2-[1-(3,4-dimethoxy-benzyl)-6-hydroxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide with ethyl bromoacetate

reactant | 2-[1-(3,4-dimethoxy-benzyl)-6-hydroxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)O)CC(=O)NCC2=CC=CC=C2)C=CC1OC | C28H32N2O5
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | [2-(Benzylcarbamoyl-methyl)-1-(3,4-dimethoxy-benzyl)-7-methoxy-1,2,3,4-tetrahydro-isoquinolin-6-yloxy]-acetic acid ethyl ester | C(C)OC(COC=1C=C2CCN(C(C2=CC1OC)CC1=CC(=C(C=C1)OC)OC)CC(NCC1=CC=CC=C1)=O)=O | C32H38N2O7
